US05166203
(2) 2-Fluoromethylmorpholine hydrochloride
To a solution of N-benzyl-2-fluoromethylmorpholine hydrochloride (1.46 g) in ethanol (85 ml) is added 10% palladium-carbon (0.2 g), and the mixture is stirred under hydrogen atmosphere (maximum hydrogen pressure: 6 kg/cm2) at room temperature. After completion of absorption of hydrogen gas, palladium-carbon is filtered off, and the filtrate is concentrated under reduced pressure. To the residue are added ether (2 ml) and ethanol (0.5 ml), and the precipitated crystals are separated by filtration and dried under reduced pressure to give the title compound (0.6 g).

reactant | N-benzyl-2-fluoromethylmorpholine hydrochloride | 1.46 g | Cl.C(C1=CC=CC=C1)N1CC(OCC1)CF
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 85 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.2 g | [C].[Pd]
product | 2-Fluoromethylmorpholine hydrochloride | 0.6 g | Cl.FCC1CNCCO1 | InChI=1S/C5H10FNO.ClH/c6-3-5-4-7-1-2-8-5;/h5,7H,1-4H2;1H
